US06794400B2
4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(pyridin-4-ylmethylidene)thiosemicarbazide
The title compound was prepared from a mixture of N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide (100 mg, 0.55 mmol) and 4-pyridine-carboxaldehyde (54 μL, 0.56 mmol) similar to Example 1 and isolated as a white solid (30 mg, 20%). 1H NMR (CDCl3): 10.74 (s, 1H), 8.66 (dd, J=1.5, 4.5 Hz, 2H), 7.93 (s, 1H), 7.51 (s, 1H), 7.48 (dd, J=1.5, 4.5 Hz, 2H), 6.24-6.13 (m, 2H), 4.29-4.24 (m, 1H), 3.05 (s, 1H), 2.97 (s, 1H), 1.94-1.87(m, 1H), 1.68 (d, J=9.0 Hz, 1H), 1.50(d, J=9.0 Hz, 1H), 1.45-1.39 (m, 1H).

reactant | N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide | 0.55 mmol, 100 mg | C12C(CC(C=C1)C2)NC(=S)NN | C8H13N3S
reactant | 4-pyridine-carboxaldehyde | 0.56 mmol, 54 μL | N1=CC=C(C=C1)C=O | C6H5NO
product | 4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(pyridin-4-ylmethylidene)thiosemicarbazide | C12C(CC(C=C1)C2)NC(NN=CC2=CC=NC=C2)=S | C14H16N4S
